US07253162B2
Step A: 1-{4-[(5,5-Dioxido-2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]benzothiadiazin-7-yl)oxy]phenyl}ethanone
A suspension composed of 3.0 g (12.48 mmol) of 2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c]-[1,2,4]benzothiadiazin-7-ol 5,5-dioxide, 3.18 g (18.73 mmol) of (4-acetylphenyl)boronic acid, 3.42 g (18.82 mmol) of copper(II) acetate, 3.03 ml (37.15 mmol) of pyridine and about 500 mg of 4 Å molecular sieve in 150 ml of methylene chloride is stirred overnight. The reaction mixture is diluted by adding a further 100 ml of methylene chloride and the suspension is filtered. The filtrate is concentrated and then directly placed on a silica column which is eluted with a CH2Cl2/acetone 99/1 system. The fractions containing the expected product are combined and evaporated, and the residue is taken up in ethyl ether. After filtering off the solid, the title product is recovered in the form of white powder.

reactant | 2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c]-[1,2,4]benzothiadiazin-7-ol 5,5-dioxide | 12.48 mmol, 3.0 g | C1CCC2NS(C3=C(N21)C=CC(=C3)O)(=O)=O | C10H12N2O3S
reactant | (4-acetylphenyl)boronic acid | 18.73 mmol, 3.18 g | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | pyridine | 37.15 mmol, 3.03 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 18.82 mmol, 3.42 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-{4-[(5,5-Dioxido-2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]benzothiadiazin-7-yl)oxy]phenyl}ethanone | O=S1(NC2N(C3=C1C=C(C=C3)OC3=CC=C(C=C3)C(C)=O)CCC2)=O | C18H18N2O4S
